US08382912B2
In a four-necked 200-mL flask equipped with a reflux cooling tube, a dropping funnel, a thermometer and a stirring blade, 9.4 g (53.7 mmol) of L(+)-arginine, 50.0 g of water and 50.0 g of ethanol were placed, and the mixture was heated to 78° C. while being stirred under a nitrogen atmosphere. Subsequently, the inside of the reaction system was maintained at 78 to 80° C., 10.0 g (53.7 mmol) of 2-ethylhexyl glycidyl ether was added dropwise thereto. Thereafter, the mixture was aged for 4 hours at 78 to 80° C., and then was returned to room temperature. Subsequently, 9.8 g (53.7 mmol) of a 6 mol/L aqueous solution of hydrochloric acid was added thereto to neutralize the mixture. Water and ethanol were completely distilled off from the reaction solution under reduced pressure, and thus 21.6 g of N-[2-hydroxy-3-(2-ethylhexyl)oxypropyl]-L-arginine hydrochloride was obtained as a white solid. This compound corresponds to the compound 2 of Table 1.

reactant | L(+)-arginine | 53.7 mmol, 9.4 g | C(C[C@@H](C(=O)O)N)CN=C(N)N | C6H14N4O2
reactant | water | 50.0 g | O | H2O
reactant | 2-ethylhexyl glycidyl ether | 53.7 mmol, 10.0 g | C(C1CO1)OCC(CCCC)CC | C11H22O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50.0 g | C(C)O | C2H6O
product | N-[2-hydroxy-3-(2-ethylhexyl)oxypropyl]-L-arginine hydrochloride | 21.6 g | Cl.OC(CN[C@@H](CCCNC(N)=N)C(=O)O)COCC(CCCC)CC | InChI=1S/C17H36N4O4.ClH/c1-3-5-7-13(4-2)11-25-12-14(22)10-21-15(16(23)24)8-6-9-20-17(18)19;/h13-15,21-22H,3-12H2,1-2H3,(H,23,24)(H4,18,19,20);1H/t13?,14?,15-;/m0./s1
